US04305932
2-Acetamido-3,4,6-tri-O-acetyl-D-glucopyranosyl chloride (18.3 g) and ethoxyquin (22.1 g) were vigorously stirred together at 80° for 3 hours. Acetone (50 ml) was added to the hot reaction mixture and stirring was continued for 0.5 hours. After cooling, the solid ethoxyquin-hydrochloride was filtered, washed with acetone and the combined filtrates were evaporated under reduced pressure. The crude product was purified by column chromatography on silica (ethylacetate-benzene 1:4). 16.5 g of 1-(2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-D-glucopyranosyl)-6-ethoxy-1,2-dihydro-2,2,4-trimethylquinoline were obtained. Analytical grade sample was obtained by recrystallisation from ether or isopropanol. m.p. 186°-187°.

reactant | 2-Acetamido-3,4,6-tri-O-acetyl-D-glucopyranosyl chloride | 18.3 g | C(C)(=O)N[C@@]1(C(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Cl)O | C14H20ClNO9
reactant | ethoxyquin | 22.1 g | CCOC1=CC=C2C(=C1)C(=CC(N2)(C)C)C | C14H19NO
solvent | Acetone | 50 ml | CC(=O)C | C3H6O
product | 1-(2-acetamido-3,4,6-tri-O-acetyl-2-deoxy-D-glucopyranosyl)-6-ethoxy-1,2-dihydro-2,2,4-trimethylquinoline | 16.5 g | C(C)(=O)N[C@H]1C(O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)N1C(C=C(C2=CC(=CC=C12)OCC)C)(C)C | C28H38N2O9
